US06982274B2
Methyl 3-(3-fluorophenyl)-1H-5-indazolecarboxylate
A total of 11.5 g of methyl 4-fluoro-3-(3-fluorobenzoyl)benzoate was dissolved in 40 ml of ethanol, and the reaction mixture was treated with 2.4 ml of hydrazine monohydrate with stirring at room temperature for 12 hours. The reaction mixture was treated with 2 N hydrochloric acid to be acidic and was extracted with two portions of ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was recrystallized from hexane-diisopropyl ether, to give 7.0 g of title compound as colorless crystals.

reactant | methyl 4-fluoro-3-(3-fluorobenzoyl)benzoate | 11.5 g | FC1=C(C=C(C(=O)OC)C=C1)C(C1=CC(=CC=C1)F)=O | C15H10F2O3
reactant | hydrazine monohydrate | 2.4 ml | O.NN
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Methyl 3-(3-fluorophenyl)-1H-5-indazolecarboxylate | 7.0 g | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)OC | C15H11FN2O2
